US07795282B2
Step B: 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-1,3,4-thiadiazole:
2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide (220 mg, 0.51 mmol) was dissolved in trimethyl-orthoformate (1.62 g, 15.2 mmol) with a few crystals of pTsOH (10 mg, 0.05 mmol), and heated to 80° C. for 20 minutes. The reaction mixture was then concentrated and purified by flash column chromatography, eluting with 4:1 (hexanes/ethyl acetate), to afford the desired product as a light yellow oil (202 mg, 90%).

reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide | 0.51 mmol, 220 mg | N(=[N+]=[N-])CCCC1(SC(=NN1C(NN)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C18H17F2N7S2
reactant | trimethyl-orthoformate | 15.2 mmol, 1.62 g | COC(OC)OC | C4H10O3
reactant | pTsOH | 0.05 mmol, 10 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-1,3,4-thiadiazole | 202 mg, 90% | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C19H15F2N7S2
